US07173048B2
A solution of 50 mg of 1-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-1H-indole-3-carbaldehyde in 1 mL of THF was treated at 0° C. with 5 mg (0.14 mmol) of LiAlH4 and allowed to reach RT within 1 h. Ice cubes were added and the mixture distributed between Et2O and H2O. Drying of the combined organic phases over Na2SO4 and evaporation of the solvent yielded 36 mg of 2-{1-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-3-hydroxymethyl-2-methyl-1H-indol-5-yl}-1,1,1,3,3,3-hexafluoro-propan-2-ol, off white solid, 533 (MH+).

reactant | 1-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-1H-indole-3-carbaldehyde | 50 mg | ClC=1C=C(C=CC1)C=1OC(=C(N1)CN1C(=C(C2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)C=O)C)C | C24H17ClF6N2O3
reactant | LiAlH4 | 0.14 mmol, 5 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Et2O | CCOCC | C4H10O
reactant | H2O | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-{1-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-3-hydroxymethyl-2-methyl-1H-indol-5-yl}-1,1,1,3,3,3-hexafluoro-propan-2-ol | 36 mg | ClC=1C=C(C=CC1)C=1OC(=C(N1)CN1C(=C(C2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)CO)C)C | C24H19ClF6N2O3
